US06028195
1-[(2-Methylamino-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine
Phenyl N-(2-methylamino-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(2-methylamino-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)carbamate | CNC1=C(C=C2C(=N1)CCC2)NC(OC2=CC=CC=C2)=O | C16H17N3O2
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(2-Methylamino-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 48% | CNC1=C(C=C2C(=N1)CCC2)NC(=O)N2CCN(CC2)C2=CC(=CC(=C2)C)C | C22H29N5O
